### PR TITLE
chore: redefine `IGame.ofSets` `Game.ofSets` `Surreal.ofSets` using `Player -> Set _` function

### PR DESCRIPTION
**Pull request by astrainfinita**

### CODE REVIEW

File: CombinatorialGames/Game/IGame.lean [hunk 1]
```diff
@@ -135,26 +130,25 @@ abbrev rightMoves (x : IGame.{u}) : Set IGame.{u} := x.moves right
...
+  ext; rw [moves, ofSets, QPF.Fix.dest_mk]
 
 @[simp]
-theorem mk_moves (x : IGame) : mk x.moves = x := x.mk_dest
+theorem ofSets_moves (x : IGame) : ofSets x.moves = x := x.mk_dest
 
 @[simp, game_cmp]
 theorem leftMoves_ofSets (s t : Set _) [Small.{u} s] [Small.{u} t] : {s | t}ᴵ.leftMoves = s := by
-  rw [leftMoves, ofSets, moves_mk]
+  rw [leftMoves, moves_ofSets]
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: Does this work?
```
theorem leftMoves_ofSets (s t : Set _) [Small.{u} s] [Small.{u} t] : {s | t}ᴵ.leftMoves = s := 
  moves_ofSets ..
```

File: CombinatorialGames/Game/Functor.lean [hunk 2]
```diff
@@ -46,6 +46,11 @@ inductive Player where
 
 namespace Player
 
+@[simp]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Functor.lean:50]:
```suggestion
/-- Specify a function `Player → α` from its two outputs. -/
@[simp]
```

File: CombinatorialGames/Game/Basic.lean [hunk 3]
```diff
@@ -64,11 +64,21 @@ notation, and from the analogous constructors on other game types.
...
-recommended_spelling "ofSets" for "{· | ·}ᴳ" in [«term{_|_}ᴳ»]
+@[inherit_doc] notation "{" s " | " t "}ᴳ" => ofSets (Player.cases s t)
+
+theorem ofSets_cases (s t : Set Game.{u}) [Small.{u} s] [Small.{u} t] :
+    {s | t}ᴳ = mk {out '' s | out '' t}ᴵ := by
+  rw [ofSets]
+  congr with p
+  cases p <;> rfl
+
+theorem mk_ofSets' (st : Player → Set IGame.{u}) [Small.{u} (st left)] [Small.{u} (st right)] :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean:78]: Can the other version of `mk_ofSets` be proven from this one? (and also, do we need both versions?)

File: CombinatorialGames/Game/Basic.lean [hunk 4]
```diff
@@ -64,11 +64,21 @@ notation, and from the analogous constructors on other game types.
...
-def ofSets (s t : Set Game.{u}) [Small.{u} s] [Small.{u} t] : Game.{u} :=
-  mk {out '' s | out '' t}ᴵ
+def ofSets (st : Player → Set Game.{u}) [Small.{u} (st left)] [Small.{u} (st right)] : Game.{u} :=
+  mk <| .ofSets fun p ↦ out '' (st p)
 
-@[inherit_doc] notation "{" s " | " t "}ᴳ" => ofSets s t
-recommended_spelling "ofSets" for "{· | ·}ᴳ" in [«term{_|_}ᴳ»]
+@[inherit_doc] notation "{" s " | " t "}ᴳ" => ofSets (Player.cases s t)
+
+theorem ofSets_cases (s t : Set Game.{u}) [Small.{u} s] [Small.{u} t] :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: This shouldn't be public API, it's a special case of `mk_ofSets` (which is the proper characterization of this function).
```suggestion
private theorem ofSets_cases (s t : Set Game.{u}) [Small.{u} s] [Small.{u} t] :
```

**Review by vihdzp — APPROVED** [review]
Just two small notes.

File: CombinatorialGames/Game/Basic.lean (hunk 3 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Basic.lean:78]: I added a lemma `Player.apply_cases` to help with the rewriting needed here.
